US07309690B2
Lys:
Ser: Ala, (N-methyl)Ser, D-Ser, Thr

reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
reactant | D-Ser | N[C@H](CO)C(=O)O | C3H7NO3
reactant | Thr | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
product | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
